US07608740B2
18 L ethyl bromide were dissolved in 30 L of THF and added dropwise to a suspension of 6 kg of magnesium in 30 L of THF. The reaction solution was next stirred for two hours at 65° to 75° C. and then cooled to 0 to 10° C. 15 kg of 3-fluorobenzaldehyde in 60 L of THF were added while cooling with ice over a period of 6 hr and the reaction solution was stirred overnight at room temp. The reaction solution was quenched with saturated ammonium chloride solution at 0°-10° C. The reaction solution was stirred for one hour, organic layer separated and concentrated. The concentrate was extracted with 40 L of DCM and washed with 30 L of 5% HCl solution. The solvent was removed in vacuo. After drying, 20 kg of 1-(3-Fluoro -phenyl)-propan-1-ol were obtained as a brown oil and taken as such to the next step.

reactant | ethyl bromide | 18 L | C(C)Br | C2H5Br
reactant | magnesium | 6 kg | [Mg] | Mg
reactant | 3-fluorobenzaldehyde | 15 kg | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | THF | 30 L | C1CCOC1 | C4H8O
solvent | THF | 30 L | C1CCOC1 | C4H8O
solvent | THF | 60 L | C1CCOC1 | C4H8O
product | 1-(3-Fluoro -phenyl)-propan-1-ol | 20 kg | FC=1C=C(C=CC1)C(CC)O | C9H11FO
